US05439917
2-(p-bromophenyl)-3-methyl-7-phenacyl pyrrolo[2,3-b]pyridine
The title compound was prepared from 2-(p-bromophenyl)-3-methyl-pyrrolo-[2,3-b]pyridine and phenacylbromide on a 1.7 mmol scale according to the procedure described in example 8 yielding 620 mg (74%).

reactant | 2-(p-bromophenyl)-3-methyl-pyrrolo-[2,3-b]pyridine | BrC1=CC=C(C=C1)C1=C(C=2C(=NC=CC2)N1)C | C14H11BrN2
reactant | phenacylbromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
product | 2-(p-bromophenyl)-3-methyl-7-phenacyl pyrrolo[2,3-b]pyridine | BrC1=CC=C(C=C1)C1=C(C=2C(N(C=CC2)CC(=O)C2=CC=CC=C2)=N1)C | C22H17BrN2O
